US08012976B2
Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-ethylphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one (588 mg, 2 mmol) and 4-ethylbenzaldehyde (268 mg, 2 mmol) in ethyl propionate (15 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (138 mg, 6 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 3 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product, which was purified by chromatography (silica gel, petroleum ether/ethyl acetate=1:1) to give the crude title compound (290 mg, yield 32%). LC-MS (ESI) m/z: 457 (M+1)+.

reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)isobenzofuran-1(3H)-one | 2 mmol, 588 mg | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1 | C18H18N2O2
reactant | 4-ethylbenzaldehyde | 2 mmol, 268 mg | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 6 mmol, 5 mL, 138 mg | C(C)O | C2H6O
solvent | ethyl propionate | 15 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-((dimethylamino)methyl)phenyl)-3-(4-ethylphenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 290 mg, yield 32% | CN(C)CC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=CC=C(C=C1)CC)=O)C(=O)OCC | C29H32N2O3
